US03951981
Preparation of 4,9-Dihydro-4-methyl-10-H-thieno[3,4-b] [1,5]benzodiazepin-10-thione
A mixture of 0.4 g. of 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5] benzodiazepin-10-one and 0.5 g. of phosphorus pentasulfide in 5 ml. of dry pyridine is stirred and heated under reflux for 4 hours. The reaction mixture is concentrated to dryness and the residue is stirred with 10 ml. of 1N sodium carbonate solution for 18 hours. The precipitate is collected, washed with water and recrystallized from methanol to give gold crystals, m.p. 203°-204°C.

reactant | 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5] benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C12H10N2OS
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4,9-Dihydro-4-methyl-10-H-thieno[3,4-b] [1,5]benzodiazepin-10-thione | CN1C=2C(C(NC3=C1C=CC=C3)=S)=CSC2 | C12H10N2S2
